US08278335B2
Step 7. 2-[2,6-Difluoro-4-(1-hydroxy-1-methylethyl)phenyl]-5-{[6-(1-hydroxy-1-methylethyl)pyridazin-3-yl]amino}-1,3-thiazole-4-carboxamide
A sealed tube was charged with a stir bar, 5-amino-2-[2,6-difluoro-4-(1-hydroxy-1-methylethyl)phenyl]-1,3-thiazole-4-carboxamide (52 mg, 0.17 mmol), 2-(6-chloropyridazin-3-yl)propan-2-ol (29 mg, 0.17 mmol), Pd2(dba)3 (15 mg, 0.017 mmol), X-PHOS (40 mg, 0.083 mmol), and potassium carbonate (23 mg, 0.17 mmol). The tube was evacuated and backfilled with argon 3×. Fully degassed tert-amyl alcohol (0.33 ml) was added and the reaction vessel was sealed and left to stir at 100° C. overnight. The reaction vessel was removed from the heat and allowed to cool to room temperature. The reaction mixture was taken up in ethyl acetate and washed with 100 mL water. The water layer was treated with concentrated ammonium hydroxide and extracted with ethyl acetate. The organic fractions were combined, dried over anhydrous magnesium sulfate, and filtered. To the organic layer was added 0.45 g of silica gel and the solvent was removed under reduced pressure. The compound on silica was purified by flash chromatography (500 ml gradient of 0-3% methanol/ethyl acetate) to afford the title compound as a light yellow solid. 1H NMR (500 MHz, d6-DMSO) δ 11.41 (s, 1H), 7.83 (d, 1H), 7.74 (s, 1H), 7.68 (d, 1H), 7.57 (s, 1H), 7.34 (d, 2H), 5.42 (s, 1H), 5.38 (s, 1H), 1.50 (s, 6H), 1.44 (s, 6H). LRMS (APCI) calcd for C20H22F2N5O3S [M+H]+ 450.1, found 450.0.

reactant | 5-amino-2-[2,6-difluoro-4-(1-hydroxy-1-methylethyl)phenyl]-1,3-thiazole-4-carboxamide | 0.17 mmol, 52 mg | NC1=C(N=C(S1)C1=C(C=C(C=C1F)C(C)(C)O)F)C(=O)N | C13H13F2N3O2S
reactant | 2-(6-chloropyridazin-3-yl)propan-2-ol | 0.17 mmol, 29 mg | ClC1=CC=C(N=N1)C(C)(C)O | C7H9ClN2O
reactant | X-PHOS | 0.083 mmol, 40 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | potassium carbonate | 0.17 mmol, 23 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd2(dba)3 | 0.017 mmol, 15 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-[2,6-Difluoro-4-(1-hydroxy-1-methylethyl)phenyl]-5-{[6-(1-hydroxy-1-methylethyl)pyridazin-3-yl]amino}-1,3-thiazole-4-carboxamide | FC1=C(C(=CC(=C1)C(C)(C)O)F)C=1SC(=C(N1)C(=O)N)NC=1N=NC(=CC1)C(C)(C)O | C20H21F2N5O3S
